US04000302
Reacting 3-[(2-aminoethyl)thiomethyl]isothiazole with S-methyl-N-nitroisothiourea by the procedure of Example 70 gives N-[2-(3-isothiazolymethylthio)ethyl]-N' -nitro-guanidine and reaction of the same starting material with N,S-dimethyl-N'-nitroisothiourea gives N-[2-(3-isothiazolylmethylthio)ethyl]-N' -methyl-N"-nitroguanidine.

reactant | 3-[(2-aminoethyl)thiomethyl]isothiazole | NCCSCC1=NSC=C1 | C6H10N2S2
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | N,S-dimethyl-N'-nitroisothiourea | CNC(SC)=N[N+](=O)[O-] | C3H7N3O2S
product | N-[2-(3-isothiazolylmethylthio)ethyl]-N' -methyl-N"-nitroguanidine | S1N=C(C=C1)CSCCNC(=N[N+](=O)[O-])NC | C8H13N5O2S2
